US06096710
Boc-Gly-Pro-Nleu-OEt
Boc-Gly-Pro-OH (3.85 g, 0.014 mol), the HCl salt of Nleu-OEt (2.76 g, 0.014 mol) and HOBt (2.8 g, 0.02 mol.) were dissolved in 100 ml DMF and the solution was chilled to 0° C. on a water-ice bath. TEA (2.8 ml, 0.02 mol.) was added to the solution. After stirring the solution for 10 minutes, EDC (4.0 g, 0.021 mol.) was added. The stirring was continued overnight. The DMF was removed under reduced pressure and the resulting mixture was poured into 200 ml ethyl acetate. The organic layer was washed by H2O 2×30 ml, saturated NaHCO3 3×10 ml, brine 2×10 ml, saturated NaHSO4 3×15 ml and brine again until the pH value of the brine layer was approximately 7. The ethyl acetate solution was dried using Na2SO4 and the solvent was removed by distillation under reduced pressure. Column chromatography (elution solvents: E/H, 2:1) was performed to obtain the pure product (yellowish oil, 4.7 g, 81%). TLC Rf=0.54 (developing solvents: CMA, 85:15:3) and Rf=0.34 (developing solvents: E/H, 2:1).

reactant | Boc-Gly-Pro-OH | 0.014 mol, 3.85 g | N(CC(=O)N1[C@H](C(=O)O)CCC1)C(=O)OC(C)(C)C | C12H20N2O5
reactant | HCl | Cl | ClH
reactant | Nleu-OEt | 0.014 mol, 2.76 g | N[C@@H](CCCC)C(=O)OCC | C8H17NO2
reactant | HOBt | 0.02 mol, 2.8 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDC | 0.021 mol, 4.0 g
solvent | DMF | 100 ml | CN(C)C=O | C3H7NO
product | Boc-Gly-Pro-Nleu-OEt | N(CC(=O)N1[C@H](C(=O)N[C@@H](CCCC)C(=O)OCC)CCC1)C(=O)OC(C)(C)C | C20H35N3O6
